* c:\users\yamin\esim-workspace\serdes_new\serdes_new.cir

.include deserializer_subcircuit.sub
.include serializer_subcircuit_ser.sub
v1  clk gnd pulse(0 5 0.5 0 0 0.5 1)
v2  rst gnd pulse(5 0 0.5 0 0 24 48)
v3  load gnd pulse(0 5 2 0 0 1 11)
v4  data_in3 gnd pulse(0 5 12 0 0 12 24)
v5  data_in2 gnd pulse(0 5 12 0 0 12 24)
v6  data_in1 gnd pulse(0 5 12 0 0 12 24)
v7  data_in0 gnd pulse(0 5 12 0 0 12 24)
v8 vcc gnd  dc 5
* u1  clk plot_v1
* u2  rst plot_v1
* u3  load plot_v1
* u4  data_in3 plot_v1
* u5  data_in2 plot_v1
* u6  data_in1 plot_v1
* u7  data_in0 plot_v1
* u10  data_out3 plot_v1
* u11  data_out2 plot_v1
* u12  data_out1 plot_v1
* u13  data_out0 plot_v1
* u14  done_des plot_v1
v9  start gnd pulse(0 5 3 0 0 1 12)
* u8  done_ser plot_v1
* u9  start plot_v1
x1 clk rst load data_in3 data_in2 data_in1 data_in0 net-_x1-pad8_ done_ser serializer_subcircuit_ser
x2 clk rst start net-_x1-pad8_ data_out3 data_out2 data_out1 data_out0 done_des deserializer_subcircuit
.tran 0.001e-00 24e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
setbrushwidth 2
plot v(clk) +80v(rst) +70v(load)+60 v(data_in3) +50v(data_in2) +40v(data_in1) +30v(data_in0)  +20v(done_ser)+10
plot v(data_out3) +60v(data_out2) +50v(data_out1) +40v(data_out0) +30v(start)+20 v(done_des) +10
.endc
.end
