.title kicad schematic

v4 net-_u1-pad4_ gnd  dc 5
v3 net-_u1-pad3_ gnd  dc 5
v1 net-_u1-pad1_ gnd  dc 5
v2 net-_u1-pad2_ gnd  dc 5
v7 net-_u1-pad7_ gnd  dc 5
v5 net-_u1-pad5_ gnd  dc 0
v6 net-_u1-pad6_ gnd  dc 0
v8 net-_u1-pad8_ gnd  dc 5
v14 net-_u2-pad6_ gnd  dc 0
v15 net-_u2-pad7_ gnd  dc 5
v11 net-_u2-pad3_ gnd  dc 0
v9 net-_u2-pad1_ gnd  dc 5
v13 net-_u2-pad5_ gnd  dc 0
v10 net-_u2-pad2_ gnd  dc 0
v12 net-_u2-pad4_ gnd  dc 5
v16 net-_u2-pad8_ gnd  dc 0
* u5 net-_u3-pad25_ net-_u3-pad26_ net-_u3-pad27_ net-_u3-pad28_ net-_u3-pad29_ net-_u3-pad30_ net-_u3-pad31_ net-_u3-pad32_ y230 y220 y210 y200 y330 y320 y310 y300 dac_bridge_8
* u3 net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ net-_u2-pad13_ net-_u2-pad14_ net-_u2-pad15_ net-_u2-pad16_ net-_u3-pad17_ net-_u3-pad18_ net-_u3-pad19_ net-_u3-pad20_ net-_u3-pad21_ net-_u3-pad22_ net-_u3-pad23_ net-_u3-pad24_ net-_u3-pad25_ net-_u3-pad26_ net-_u3-pad27_ net-_u3-pad28_ net-_u3-pad29_ net-_u3-pad30_ net-_u3-pad31_ net-_u3-pad32_ bitonic_sort
* u4 net-_u3-pad17_ net-_u3-pad18_ net-_u3-pad19_ net-_u3-pad20_ net-_u3-pad21_ net-_u3-pad22_ net-_u3-pad23_ net-_u3-pad24_ y030 y020 y010 y000 y130 y120 y110 y100 dac_bridge_8
* u1 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ adc_bridge_8
* u2 net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ net-_u2-pad13_ net-_u2-pad14_ net-_u2-pad15_ net-_u2-pad16_ adc_bridge_8
* u11 y120 plot_v1
* u12 y110 plot_v1
* u13 y100 plot_v1
* u9 y000 plot_v1
* u6 y030 plot_v1
* u7 y020 plot_v1
* u10 y130 plot_v1
* u8 y010 plot_v1
* u20 y310 plot_v1
* u16 y210 plot_v1
* u14 y230 plot_v1
* u21 y300 plot_v1
* u18 y330 plot_v1
* u17 y200 plot_v1
* u15 y220 plot_v1
* u19 y320 plot_v1
a1 [net-_u3-pad25_ net-_u3-pad26_ net-_u3-pad27_ net-_u3-pad28_ net-_u3-pad29_ net-_u3-pad30_ net-_u3-pad31_ net-_u3-pad32_ ] [y230 y220 y210 y200 y330 y320 y310 y300 ] u5
a2 [net-_u1-pad9_ ] [net-_u1-pad10_ ] [net-_u1-pad11_ ] [net-_u1-pad12_ ] [net-_u1-pad13_ ] [net-_u1-pad14_ ] [net-_u1-pad15_ ] [net-_u1-pad16_ ] [net-_u2-pad9_ ] [net-_u2-pad10_ ] [net-_u2-pad11_ ] [net-_u2-pad12_ ] [net-_u2-pad13_ ] [net-_u2-pad14_ ] [net-_u2-pad15_ ] [net-_u2-pad16_ ] [net-_u3-pad17_ ] [net-_u3-pad18_ ] [net-_u3-pad19_ ] [net-_u3-pad20_ ] [net-_u3-pad21_ ] [net-_u3-pad22_ ] [net-_u3-pad23_ ] [net-_u3-pad24_ ] [net-_u3-pad25_ ] [net-_u3-pad26_ ] [net-_u3-pad27_ ] [net-_u3-pad28_ ] [net-_u3-pad29_ ] [net-_u3-pad30_ ] [net-_u3-pad31_ ] [net-_u3-pad32_ ] u3
a3 [net-_u3-pad17_ net-_u3-pad18_ net-_u3-pad19_ net-_u3-pad20_ net-_u3-pad21_ net-_u3-pad22_ net-_u3-pad23_ net-_u3-pad24_ ] [y030 y020 y010 y000 y130 y120 y110 y100 ] u4
a4 [net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ ] [net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ ] u1
a5 [net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ ] [net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ net-_u2-pad13_ net-_u2-pad14_ net-_u2-pad15_ net-_u2-pad16_ ] u2
* Schematic Name:                             dac_bridge_8, Ngspice Name: dac_bridge
.model u5 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             bitonic_sort, Ngspice Name: bitonic_sort
.model u3 bitonic_sort(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_8, Ngspice Name: dac_bridge
.model u4 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, Ngspice Name: adc_bridge
.model u1 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, Ngspice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 1e-09 100e-09 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(y120)
plot v(y110)
plot v(y100)
plot v(y000)
plot v(y030)
plot v(y020)
plot v(y130)
plot v(y010)
plot v(y310)
plot v(y210)
plot v(y230)
plot v(y300)
plot v(y330)
plot v(y200)
plot v(y220)
plot v(y320)
.endc
.end
