* Subcircuit two_ff_syncronizer_subcircuit
.subckt two_ff_syncronizer_subcircuit net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ 
* c:\fossee\esim\library\subcircuitlibrary\two_ff_syncronizer_subcircuit\two_ff_syncronizer_subcircuit.cir
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ two_ff_synchronizer
* u3  net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ adc_bridge_3
* u4  net-_u1-pad4_ net-_u2-pad4_ dac_bridge_1
a1 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ ] [net-_u1-pad4_ ] u1
a2 [net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ ] [net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ ] u3
a3 [net-_u1-pad4_ ] [net-_u2-pad4_ ] u4
* Schematic Name:                             two_ff_synchronizer, NgSpice Name: two_ff_synchronizer
.model u1 two_ff_synchronizer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 )
* Schematic Name:                             adc_bridge_3, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u4 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 )
* Control Statements

.ends two_ff_syncronizer_subcircuit