* c:\esim\two_ff_syncronizer_testing\two_ff_syncronizer_testing.cir

.include two_ff_syncronizer_subcircuit.sub
x1 clk0 rst_n0 async_in0 sync_out0 two_ff_syncronizer_subcircuit
v1  clk0 gnd pulse(0 5 0 0 0 0.05 0.1)
v2  rst_n0 gnd pulse(5 0 0 0 0 0.1 0.9)
v3  async_in0 gnd pulse(0 5 0 0 0 0.2 0.4)
* u1  clk0 plot_v1
* u2  rst_n0 plot_v1
* u3  async_in0 plot_v1
* u4  sync_out0 plot_v1
.tran 0.001e-00 1e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt

set xbrushwidth = 3

plot v(clk0) + 6 v(rst_n0) + 12  v(async_in0) + 18 v(sync_out0)

.endc
.end
