.title kicad schematic

* u3 net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ net-_u2-pad13_ net-_u2-pad14_ net-_u2-pad15_ net-_u2-pad16_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u3-pad12_ net-_u3-pad13_ uart_tx
* u4 net-_u3-pad12_ net-_u3-pad13_ tx tx_done dac_bridge_2
* u5 tx plot_v1
* u6 tx_done plot_v1
v6 d5 gnd  dc 0
v5 d4 gnd  dc 1
v7 d6 gnd  dc 0
v8 d7 gnd  dc 1
v11 clk gnd pulse(0 3.3 0 1n 1n 5n 10n)
* u1 d2 d1 d0 net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ adc_bridge_3
v10 rst gnd pulse(3.3 0 20n 1n 1n 1000n 2000n)
* u2 clk rst tx_start d7 d6 d5 d4 d3 net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ net-_u2-pad13_ net-_u2-pad14_ net-_u2-pad15_ net-_u2-pad16_ adc_bridge_8
v9 tx_start gnd pulse(0 3.3 40n 1n 1n 10n 1000n)
v2 d1 gnd  dc 0
v1 d0 gnd  dc 1
v3 d2 gnd  dc 0
v4 d3 gnd  dc 1
a1 [net-_u2-pad9_ ] [net-_u2-pad10_ ] [net-_u2-pad11_ ] [net-_u2-pad12_ net-_u2-pad13_ net-_u2-pad14_ net-_u2-pad15_ net-_u2-pad16_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ ] [net-_u3-pad12_ ] [net-_u3-pad13_ ] u3
a2 [net-_u3-pad12_ net-_u3-pad13_ ] [tx tx_done ] u4
a3 [d2 d1 d0 ] [net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ ] u1
a4 [clk rst tx_start d7 d6 d5 d4 d3 ] [net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ net-_u2-pad13_ net-_u2-pad14_ net-_u2-pad15_ net-_u2-pad16_ ] u2
* Schematic Name:                             uart_tx, Ngspice Name: uart_tx
.model u3 uart_tx(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_2, Ngspice Name: dac_bridge
.model u4 dac_bridge(out_low=0 out_high=3.3 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_3, Ngspice Name: adc_bridge
.model u1 adc_bridge(in_low=0.5 in_high=3.3 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, Ngspice Name: adc_bridge
.model u2 adc_bridge(in_low=0.5 in_high=3.3 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 1e-09 300e-09 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(tx)
plot v(tx_done)
.endc
.end
